US06500863B1
(N-pyrrolidinyl)-2,6 dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (151 g, 5.2 mmol), pyrrolidine (435 μL, 5.2 mmol) and triethylamine(1.1 mL, 7.8 mmol) were reacted to form the desired product (1.16 g, 68%). LC-MS m/z 325(M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 5.2 mmol, 151 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | pyrrolidine | 5.2 mmol, 435 μL | N1CCCC1 | C4H9N
reactant | triethylamine | 7.8 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
product | (N-pyrrolidinyl)-2,6 dichloro-3-nitrobenzenesulfonamide | 1.16 g, 68% | N1(CCCC1)C1=C(C(=C(C(=C1)Cl)S(=O)(=O)N)Cl)[N+](=O)[O-] | C10H11Cl2N3O4S
